US04508658
α-Cyano-phenylacetic acid pentachlorophenylester
8 g. (0.05 moles) of α-cyano-phenylacetic acid are dissolved in 80 ml. of dichloromethane, 10.2 g. (0.05 moles) of phosphorous pentachloride are added and the mixture is stirred for 2 hours at the boiling point of the dichloromethane. The reaction is completed when the hydrochloric acid evolution ceases. The solvent is distilled off and the residue containing the obtained acid chloride and phosphoroxychloride is taken up in carbontetrachloride and the solution is added dropwise to 13 g. (0.05 moles) of pentachlorophenol and 4 ml. (0.05 moles) of pyridine dissolved in 200 ml. of carbontetrachloride. The reaction mixture is cooled and the precipitated pyridine chlorohydrate is removed by washing twice with 50 ml. of water, dried, distilled off and the residue is distilled off with diisopropyl ether. The precipitated crystalline product is cooled and filtered. The α-cyanophenylacetic acid pentachlorophenyl ester is air-dried.

reactant | α-cyano-phenylacetic acid | 0.05 moles | C(#N)C(C(=O)O)C1=CC=CC=C1 | C9H7NO2
reactant | phosphorous pentachloride | 0.05 moles | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | hydrochloric acid | Cl | ClH
reactant | pentachlorophenol | 0.05 moles | ClC1=C(C(=C(C(=C1O)Cl)Cl)Cl)Cl | C6HCl5O
reactant | pyridine | 0.05 moles | N1=CC=CC=C1 | C5H5N
solvent | carbontetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | dichloromethane | ClCCl | CH2Cl2
product | α-Cyano-phenylacetic acid pentachlorophenylester | ClC1=C(C(=C(C(=C1OC(C(C#N)C1=CC=CC=C1)=O)Cl)Cl)Cl)Cl | C15H6Cl5NO2
